US06133258
In an atmosphere of argon, a mixture of 26 mg (3.3 mmol) of lithium hydride and 5 ml of DMF was put in a 100 ml flask. To the flask was then connected a dropping funnel which contained 800 mg (2.8 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one and 10 ml of DMF. The solution of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one was then added dropwise to the aforementioned mixture with stirring in 3 minutes. The mixture was further stirred for 30 minutes. To the mixture was then added a mixture of 332 mg of chloroacetone and 2 ml of DMF. The mixture was then stirred for 8 hours. After the termination of reaction, the mixture was concentrated under reduced pressure. The resulting residue was then extracted with water and ethyl acetate. The resulting organic phase was separated, washed with water and saturated brine, and then dried over sodium sulfate. The drying agent was then removed by filtration. The filtrate was then concentrated under reduced pressure. The resulting residue was then purified through silica gel column chromatography (eluant: 1/1 mixture of ethyl acetate and normal hexane). As a result, 487 mg of 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-(2-oxopropyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a low polarity substance, and 267 mg of 2-[N-(4-chlorophenyl)-N-(2-oxopropyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a high polarity substance. 1) 2-[(4-Chlorophenyl)imino]-2,3-dihydro-3-(2-oxopropyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one

reactant | lithium hydride | 3.3 mmol, 26 mg | [H-].[Li+]
reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.8 mmol, 800 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | chloroacetone | 332 mg | ClCC(C)=O | C3H5ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-(2-oxopropyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 487 mg | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CC(C)=O)=O)C=CC=N2 | C16H12ClN3O2S
